US04540703
To tetrahydrofuran (50 ml) are added 4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyric acid (45 mmole) and pyridine (50 mmole), and thereto is added dropwide with stirring methyl bromoformate (50 mmole) with keeping the inner temperature at 5°-15° C. by ice-cooling, and thereafter, the mixture is stirred at room temperature for one hour. To the mixture is added 4-methylcyclohexylamine (55 mmole), and the mixture is further stirred for 3 hours. After the reaction, the solvent is distilled off under reduced pressure, and the residue is dissolved in chloroform. The chloroform layer is washed with dilute aqueous sodium hydroxide solution, diluted hydrochloric acid and water in order, and dried over sodium sulfate. Inorganic materials are filtered off and the mother liquor is concentrated. The resulting residue is subjected to column chromatography (Wakogel C-200, eluting solvent, benzene:chloroform=4:1, V/V) to isolate N-(4-methylcyclohexyl)-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide (yield: 45%).

reactant | 4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyric acid | 45 mmole | CN1N=NN=C1CCCC(=S)O | C6H10N4OS
reactant | pyridine | 50 mmole | N1=CC=CC=C1 | C5H5N
reactant | methyl bromoformate | 50 mmole | BrC(=O)OC | C2H3BrO2
reactant | 4-methylcyclohexylamine | 55 mmole | CC1CCC(CC1)N | C7H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(4-methylcyclohexyl)-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide | yield: 45% | CC1CCC(CC1)NC(CCCC1=NN=NN1C)=S | C13H23N5S
